### PR TITLE
[Merged by Bors] - feat(Algebra/Module): definition of `R`-lattices

### PR DESCRIPTION
**Pull request by chrisflav**
Given an integral domain `R` and its fraction field `K`, we define an `R`-lattice in a `K`-vector space `V` to be a finitely generated `R`-submodule of `V` that generates `V` over `K`. If `R` is a PID a lattice is always a free `R`-module of rank `Module.rank K V`.

The unit group of `R` naturally acts on the type of `R`-lattices in `V`. If `V = Fin 2 → K` and `R` is a discrete valuation ring, the quotient by this action are the vertices of the Bruhat-Tits tree of `GL (Fin 2) K`.

In this PR the predicate `IsLattice` on a submodule `M` is defined and some basic stability properties are shown.

From "Formalizing the Bruhat-Tits tree"

Co-authored by: Judith Ludwig <ludwig@mathi.uni-heidelberg.de>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/Lattice.lean [hunk 1]
```diff
@@ -0,0 +1,198 @@
...
+  span_eq_top := by
+    simpa using Submodule.span_range_eq_top_of_injective_of_rank M.injective_subtype hr
+
+/-- The supremum of two lattices is a lattice. -/
+instance sup (M N : Submodule R V) [IsLattice K M] [IsLattice K N] :
+    IsLattice K (M ⊔ N) where
+  fg := Submodule.FG.sup IsLattice.fg IsLattice.fg
+  span_eq_top := by
+    rw [eq_top_iff]
+    exact le_trans (b := span K M) (by rw [IsLattice.span_eq_top]) (Submodule.span_mono (by simp))
```
Comment (acmepjz) [inline Mathlib/Algebra/Module/Lattice.lean:149]: Maybe you can prove a more general result first: a finitely generated `R`-module which contains a lattice is a lattice. And this is just a corollary of it. To prove this, maybe you can generalize `of_rank` (as well as `span_range_eq_top_of_injective_of_rank`) to `of_rank_ge` which requires `Module.rank R M ≥ Module.rank K V`.

**Comment by acmepjz** [comment]
I think "the intersection of two lattices is a lattice" is also true for Dedekind domains (perhaps more general), but it needs a local-global argument. Do you have plan to formalize it?

**Comment by chrisflav** [comment]
> I think "the intersection of two lattices is a lattice" is also true for Dedekind domains (perhaps more general), but it needs a local-global argument. Do you have plan to formalize it?

No, we don't have plans to generalize this.

**Comment by acmepjz** [comment]
> > I think "the intersection of two lattices is a lattice" is also true for Dedekind domains (perhaps more general), but it needs a local-global argument. Do you have plan to formalize it?
> 
> No, we don't have plans to generalize this.

I see. I think that is useful in algebraic number theory, e.g. to study the intersections of orders (i.e. subrings which are a lattices) and ideals in a number field or a quaternion algebra over a number field, etc. etc.

**Comment by judithludwig** [comment]
> > > I think "the intersection of two lattices is a lattice" is also true for Dedekind domains (perhaps more general), but it needs a local-global argument. Do you have plan to formalize it?
> > 
> > 
> > No, we don't have plans to generalize this.
> 
> I see. I think that is useful in algebraic number theory, e.g. to study the intersections of orders (i.e. subrings which are lattices) and ideals in a number field or a quaternion algebra over a number field, etc. etc.

Indeed, and we'd be happy to see `lattices` developed further. But our current project is on formalizing the Bruhat-Tits tree, and for that we work in the setting of a DVR, so our setting is local, not global. (Vertices in the Bruhat-Tits tree are defined as homothety classes of lattices.) This motivates this pull request.

**Comment by acmepjz** [comment]
Maybe I'll look at this when I finish currently planned PRs.

File: Mathlib/Algebra/Module/Lattice.lean [hunk 2]
```diff
@@ -0,0 +1,200 @@
...
+    rw [Submodule.coe_pointwise_smul, ← Submodule.smul_span, IsLattice.span_eq_top]
+    ext x
+    refine ⟨fun _ ↦ trivial, fun _ ↦ ?_⟩
+    rw [show x = a • a⁻¹ • x by simp]
+    exact Submodule.smul_mem_pointwise_smul _ _ _ (by trivial)
+
+lemma of_le_of_isLattice_of_fg {M N : Submodule R V} (hle : M ≤ N) [IsLattice A M]
+    (hfg : N.FG) : IsLattice A N :=
+  ⟨hfg, eq_top_iff.mpr <|
+    le_trans (b := span A M) (by rw [IsLattice.span_eq_top]) (Submodule.span_mono hle)⟩
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Module/Lattice.lean:90]:
```suggestion
    le_trans (by rw [IsLattice.span_eq_top]) (Submodule.span_mono hle)⟩
```

File: Mathlib/Algebra/Module/Lattice.lean [hunk 3]
```diff
@@ -0,0 +1,200 @@
...
+variable [IsPrincipalIdealRing R]
+
+/-- Any lattice over a PID is a free `R`-module.
+Note that under our conditions, `NoZeroSMulDivisors R K` simply says that `algebraMap R K` is
+injective. -/
+instance free [NoZeroSMulDivisors R K] (M : Submodule R V) [IsLattice K M] : Module.Free R M := by
+  haveI : NoZeroSMulDivisors R V := by
+    apply NoZeroSMulDivisors.of_algebraMap_injective' (A := K)
+    exact NoZeroSMulDivisors.algebraMap_injective R K
+  /- torsion free, finite module over a PID -/
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Module/Lattice.lean:162]:
```suggestion
  -- any torsion free finite module over a PID is free
```

**Review by riccardobrasca — APPROVED** [review]
@xroblot can you have a look? There are surely relations with the `IsZLattice` class, that should probably be mentioned in the doc. Thanks!

**Comment by xroblot** [comment]
> @xroblot can you have a look? There are surely relations with the `IsZLattice` class, that should probably be mentioned in the doc. Thanks!

There are indeed surely connection that should be made with `IsZLattice` and eventually `IsZLattice` should just become a special case of `IsLattice`.  One main difference I can see is though that, for `IsZLattice`, we ask the module to be discrete whereas for `IsLattice, we ask for it to be finitely generated. If I understand, this definition of lattice has been made because it is the one that appears in  Bruhat-Tits tree, but I am not sure that is the one we want in Mathlib. There was some time ago a discussion on Zulip about what the right generalization of `IsZLattice` should be, it would be great to get the opinion of the people involved in the discussion.

**Comment by xroblot** [comment]
https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/ZLattice.3A.20which.20fields.20do.20we.20care.20about.3F

**Comment by chrisflav** [comment]
I added docstrings in both files.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
